US07071218B2
To a mechanical stirred solution of 6-trifluoromethanesulfonyloxy-naphthalen-2-yl-methanol (70.0 g, 0.228 mol) in CH2Cl2 (600 mL) under an atmosphere of argon was added PCC (54.20 g, 0.25 mol, crushed prior to addition) over a few minutes. After 2 hours the resulting black suspension was poured onto a silica gel column and purified using CH2Cl2 to give a yellow oil that slowly crystallized upon standing to afford 65.1 g (94%) of 6-trifluoromethanesulfonyloxy-naphthalene-2-carboxaldehyde. 1H NMR (300 MHz; CDCl3) 7.50 (dd, J1=9.0 Hz, J2=2.0 Hz, 1 H), 7.83 (d, J=2.0 Hz, 1 H), 7.99 (d, J=8.4 Hz, 1 H), 7.07 (dd, J1=9.0 Hz, J2=2.0 Hz, 1 H), 8.12 (d, J=9.0 Hz, 1 H), 8.40 (brs, 1 H), 10.19 (s, 1 H), 13C NMR (75 MHz, CDCl3) 118.7 (q, J=318 Hz), 119.5, 120.9, 124.5, 129.1, 131.6, 132.2, 133.6, 134.9, 136.4, 148.9, 191.4.

reactant | 6-trifluoromethanesulfonyloxy-naphthalen-2-yl-methanol | 0.228 mol, 70.0 g | FC(S(=O)(=O)OC=1C=C2C=CC(=CC2=CC1)CO)(F)F | C12H9F3O4S
reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 6-trifluoromethanesulfonyloxy-naphthalene-2-carboxaldehyde | 65.1 g, 94% | FC(S(=O)(=O)OC=1C=C2C=CC(=CC2=CC1)C=O)(F)F | C12H7F3O4S
